US07691888B2
H-1) Methyl 4-hydrazino-3-methylbenzoate
50 ml of conc. hydrochloric acid are added to methyl 4-amino-3-methylbenzoate (10 g, 61 mmol) and the mixture is cooled down to −15° C. A solution of sodium nitrite (6.3 g, 91 mmol) in 50 ml of water is added dropwise in such a way that the temperature does not exceed −5° C. After stirring at −10° C. for 4 h, a solution of tin(II) chloride dihydrate in 50 ml of conc. hydrochloric acid is added dropwise to the suspension, with the reaction temperature not exceeding −5° C. The viscous suspension is stirred at RT for 15 h before it is adjusted to pH 14 with 200 ml of sodium hydroxide solution (10 N). The reaction mixture is filtered through kieselguhr and Extrelut® (60 g) and rinsed with 2 l of chloroform. The organic phase which is obtained is washed with water (2×200 ml), dried over sodium sulphate and evaporated in vacuo. The residue is stirred up with 120 ml of petroleum ether and filtered. Yield: 6.3 g

reactant | methyl 4-amino-3-methylbenzoate | 61 mmol, 10 g | NC1=C(C=C(C(=O)OC)C=C1)C | C9H11NO2
reactant | sodium nitrite | 91 mmol, 6.3 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride dihydrate | O.O.[Sn](Cl)Cl
reactant | sodium hydroxide | 10 N, 200 ml | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | hydrochloric acid | 50 ml | Cl | ClH
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | Methyl 4-hydrazino-3-methylbenzoate | N(N)C1=C(C=C(C(=O)OC)C=C1)C | C9H12N2O2
